US09216173B2
To a solution of tert-butyl 1-(hydroxymethyl)cyclopropylcarbamate (290 g, 1.55 mol) in DCM (2900 mL) was added DMAP (227 g, 1.86 mol) followed by 4-methylbenzene-1-sulfonyl chloride (323 g, 1.69 mol) in several batches at 10° C. After 2 hours, the reaction mixture was washed with water (2×1000 mL), dried over sodium sulfate, and concentrated under reduced pressure to afford {1-[(tert-butoxycarbonyl)amino]cyclopropyl}methyl 4-methylbenzenesulfonate. The material was used without further purification.

reactant | tert-butyl 1-(hydroxymethyl)cyclopropylcarbamate | 1.55 mol, 290 g | OCC1(CC1)NC(OC(C)(C)C)=O | C9H17NO3
reactant | 4-methylbenzene-1-sulfonyl chloride | 1.69 mol, 323 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | DCM | 2900 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.86 mol, 227 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | {1-[(tert-butoxycarbonyl)amino]cyclopropyl}methyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CC1)NC(=O)OC(C)(C)C | C16H23NO5S
